US07319104B2
A solution of N-[2-(4-methoxyphenyl)ethyl]pyridin-2-amine (150 mg; 0.66 mmol) in 3 ml of dioxane, under nitrogen, was treated with K2CO3 (113 mg; 0.82 mmol) and 2,4-bis-trifluoromethyl-benzyl bromide (0.13 ml; 0.69 mmol) and heated in a pressure tube at 190–220C for 16 hours. Upon cooling, the reaction mixture was partitioned between ethyl acetate and saturated sodium bicarbonate. The organic phase was washed with saturated brine, dried over sodium sulfate and concentrated. Purification by radial chromatography on silica gel using an ethyl acetate-hexane gradient (5–50%) afforded N-[2,4-bis(trifluoromethyl)benzyl]-N-[2-(4-methoxyphenyl)ethyl]pyridin-2-amine (130 mg; 44% yield).

reactant | N-[2-(4-methoxyphenyl)ethyl]pyridin-2-amine | 0.66 mmol, 150 mg | COC1=CC=C(C=C1)CCNC1=NC=CC=C1 | C14H16N2O
reactant | K2CO3 | 0.82 mmol, 113 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-bis-trifluoromethyl-benzyl bromide | 0.69 mmol, 0.13 ml | FC(C1=C(CBr)C=CC(=C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | N-[2,4-bis(trifluoromethyl)benzyl]-N-[2-(4-methoxyphenyl)ethyl]pyridin-2-amine | 130 mg, 44% yield | FC(C1=C(CN(C2=NC=CC=C2)CCC2=CC=C(C=C2)OC)C=CC(=C1)C(F)(F)F)(F)F | C23H20F6N2O
